US05869519
N-[(1-Phenylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid
A solution of N-[(1-phenylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester (154 mg) in anisole (0.2 mL) and methylene chloride (2 mL) was treated with TFA (1 mL), and the resultant reaction mixture was stirred for one hour under a nitrogen atmosphere at room temperature. The reaction mixture was concentrated and chased with methylene chloride, then triturated with ether to yield the title product as a white powder (100 mg). TLC: (methylene chloride/methanol/acetic acid, 20:1:1): Rf =0.38, MS (EI) for C25H26FN3O5 : MH+ =468; (M-H)- =466.

reactant | N-[(1-phenylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester | 154 mg | C1(=CC=CC=C1)N1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)=O | C29H34FN3O5
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 0.2 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[(1-Phenylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid | 100 mg | C1(=CC=CC=C1)N1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(CF)=O | C25H26FN3O5
